US07635715B2
Step B: Preparation of Methyl 4-(2-fluorophenyl)-tetrahydro-2H-pyran-4-carboxylate
To an ice-bath cooled, stirred solution of methyl 2-(2-fluorophenyl)acetate (3.4 g, 20 mmol) in THF (100 mL) was added NaH (1.8 g, 44 mmol). The reaction was stirred at 0° C. for 10 minutes and then dichloroethyl ether (2.7 mL, 22 mmol) and tetrabutylammonium bromide (0.33 g, 1.0 mmol) were added sequentially. The yellow reaction mixture was stirred for 16 hours at room temperature and then quenched with a saturated ammonium chloride solution. The aqueous layer was extracted with EtOAc (3×60 mL), and the organic layers were combined, dried (Na2SO4), filtered and concentrated to afford a yellow oil. Purification by flash chromatography (100% DCM) provided a pale yellow oil (2.5 g). MS m/e=239.0 (M+H)+.

reactant | methyl 2-(2-fluorophenyl)acetate | 20 mmol, 3.4 g | FC1=C(C=CC=C1)CC(=O)OC | C9H9FO2
reactant | NaH | 44 mmol, 1.8 g | [H-].[Na+]
reactant | dichloroethyl ether | 22 mmol, 2.7 mL | ClC(COCC(Cl)Cl)Cl | C4H6Cl4O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | tetrabutylammonium bromide | 1.0 mmol, 0.33 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | Methyl 4-(2-fluorophenyl)-tetrahydro-2H-pyran-4-carboxylate | 2.5 g | FC1=C(C=CC=C1)C1(CCOCC1)C(=O)OC | C13H15FO3
